US04778796
A mixture of 4.5 g of 3-(3-pyridyl)acrylic acid, 3.5 g of N-hydroxysuccinimide, 6.8 g of dicyclohexylcarbodiimide, and 80 ml of dioxane is stirred at room temperature overnight. The reaction mixture is filtered, and the filtrate is concentrated to give a brown oil. The product is dissolved in 100 ml of tetrahydrofuran, and 2.3 g of 3-amino-1-propanol is added. The mixture is stirred at room temperature overnight and concentrated. The residue is chromatographed on silica gel with chloroform-methanol (30:1) to give 4.2 g of N-[3-(3-pyridyl)acryloyl]-3-amino-1-propanol. The product is converted into the hydrochloride with 35 w/v % ethanolic hydrogen chloride. To the hydrochloride is added 4.6 g of thionyl chloride, and the mixture is stirred at 100° C. for 2 hours. The remaining thionyl chloride is distilled off, and 50 ml of water is added. The resulting solution is neutralized with 10% aqueous sodium carbonate solution and extracted with three 50-ml portions of chloroform. The combined extracts are dried over magnesium sulfate, and the chlorofom is distilled off. The residue is chromatographed on silica gel with chloroform-methanol (30:1) to give 3.2 g of N-[3-(3-pyridyl)acryloyl]-3-amino-1-chloropropane.

reactant | 3-(3-pyridyl)acrylic acid | 4.5 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | N-hydroxysuccinimide | 3.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 6.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-amino-1-propanol | 2.3 g | NCCCO | C3H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | N-[3-(3-pyridyl)acryloyl]-3-amino-1-propanol | 4.2 g | N1=CC(=CC=C1)C=CC(=O)NCCCO | C11H14N2O2
